US06177449B1
g) N-[2,2-Dimethyl-6-hydroxychroman-4-yl]-N-ethylmethanesulfonamide
12 g of N-[6-benzyloxy-2,2-dimethylchroman-4-yl]-N-ethylmethanesulfonamide were dissolved in 250 ml of THF/methanol (1:1) and hydrogenated in a shaking duck using Pd/carbon. After absorption of hydrogen was complete, the catalyst was filtered off with suction, the filtrate was concentrated and the residue was crystallized using diisopropyl ether, 7.7 g, m.p. 169-170° C.

reactant | N-[6-benzyloxy-2,2-dimethylchroman-4-yl]-N-ethylmethanesulfonamide | 12 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)N(S(=O)(=O)C)CC | C21H27NO4S
solvent | THF methanol | 250 ml | C1CCOC1.CO
catalyst | Pd carbon | [Pd].[C]
product | N-[2,2-Dimethyl-6-hydroxychroman-4-yl]-N-ethylmethanesulfonamide | CC1(OC2=CC=C(C=C2C(C1)N(S(=O)(=O)C)CC)O)C | C14H21NO4S
